data/mechanism_extracts/Chemistry/10.1002_chem.201802167.json
{"doi": "10.1002_chem.201802167", "journal": "Chemistry", "is_review": false, "rxn_class_summary": "Electrocatalytic radical chlorotrifluoromethylative ene-yne cyclization of 1,6-enynes to chlorotrifluoromethylated pyrrolidines using anodically coupled electrolysis with Mn catalysis", "mechanism_family": ["radical_anodic", "paired_electrolysis", "electrocatalysis_inner_sphere", "mediator_anodic"], "electrochemical_role": "Two parallel anodic oxidations on the carbon anode: (A) single-electron oxidation of CF3SO2- (from CF3SO2Na) with loss of SO2 to generate CF3 radical, and (B) single-electron oxidation of [Mn(II)]-Cl (formed from Mn(OTf)2 + MgCl2) to a persistent [Mn(III)]-Cl species that serves as a Cl-atom transfer reagent", "key_intermediates": [{"name": "CF3 radical (transient free radical)", "smiles": "[C](F)(F)F", "role": "reactive"}, {"name": "[Mn(III)]-Cl persistent radical / Cl-atom transfer complex", "smiles": null, "role": "reactive"}, {"name": "[Mn(II)]-Cl resting-state complex", "smiles": null, "role": "resting_state"}, {"name": "sp3 carbon-centered radical I after CF3 addition to alkene of 1,6-enyne", "smiles": null, "role": "transient"}, {"name": "alkenyl (vinyl) radical II/IV after 5-exo-dig cyclization onto alkyne", "smiles": null, "role": "transient"}, {"name": "alpha-aryl sp-hybridized alkenyl radical III (stereodetermining)", "smiles": null, "role": "transient"}], "electron_flow": "Anode oxidizes CF3SO2- (-SO2) to CF3 radical, which adds regioselectively to the alkene of the 1,6-enyne to give a tertiary C-radical; this radical undergoes 5-exo-dig cyclization onto the tethered alkyne to give an alkenyl radical that is captured by anodically generated [Mn(III)]-Cl via Cl atom transfer, releasing [Mn(II)]-Cl which is re-oxidized at the anode; protons are reduced to H2 at the Pt cathode.", "rate_determining_step": "Cl-atom transfer from [Mn(III)]-Cl to the alkenyl radical (stereodetermining; under Curtin-Hammett control for alpha-alkyl alkenyl radicals)", "probe_reagents": [{"name": "no Mn catalyst control", "smiles": null, "purpose": "other", "observation": "no desired pyrrolidine formed (entry 5/6), demonstrating essential role of Mn"}, {"name": "no electrical current control", "smiles": null, "purpose": "other", "observation": "<5% product, confirming electrochemical oxidation required"}, {"name": "2,2'-bipyridine ligand", "smiles": "c1ccc(-c2ccccn2)nc1", "purpose": "other", "observation": "adding 20 mol% bpy increased Z/E from 5.1:1 to >19:1, supporting steric control at Mn during Cl transfer"}, {"name": "KBr substitution for MgCl2", "smiles": null, "purpose": "other", "observation": "bromotrifluoromethylated pyrrolidine 19 obtained as single geometric isomer, consistent with analogous [Mn]-Br atom transfer"}, {"name": "X-ray of product 7", "smiles": null, "purpose": "other", "observation": "confirmed Z-configuration of alkene, supporting stereochemical model"}, {"name": "cyclic voltammetry of CF3SO2Na and Mn(OTf)2/MgCl2", "smiles": null, "purpose": "redox_probe", "observation": "Eox(CF3SO2-) = 0.81 V and Eox([Mn(II)]-Cl) = 0.75 V vs Fc+/0; [Mn(III)/Mn(II)]-Cl couple reversible, indicating persistence of Mn-Cl species"}], "evidence_types_used": ["cyclic_voltammetry", "isolation_of_intermediate", "stoichiometric_intermediate", "on/off_light_or_current", "other"], "evidence_strength": "medium", "notes": "Stereoselectivity rationalized by Curtin-Hammett model: for alpha-aryl alkenyl radicals (sp-hybridized due to conjugation), steric shielding by quaternary C directs [Mn(III)]-Cl approach from less congested face, giving Z-selectivity; for alpha-alkyl alkenyl radicals (sp2), pro-(Z) and pro-(E) rotamers interconvert and competing kinetics/thermodynamics erode selectivity. Side pathways noted for substrates 20 (direct alkene/alkyne difunctionalization) and 21 (labile alpha-O C-H abstraction by CF3 radical giving CF3H). 1,7-enyne extension to piperidine 12 shows lower E/Z selectivity due to ring conformational flexibility during Cl transfer."}
